US07495016B2
A mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-pyrrolidin-2-one (1.5 g, 5 mmol), 3-bromobenzonitrile (1.36 g, 7.5 mmol), potassium phosphate (1.9 g, 9.8 mmol), and 1,2-trans-cyclohexanediamine (60 μL) was created in a dry round bottom flask under nitrogen containing DMF (9 mL) and dioxane (9 mL). The mixture was stirred and CuI (100 mg) was added. The resulting reaction mixture was heated to 110° C. with stirring under N2 for 20 h, and then cooled to r.t. The mixture was diluted with EtOAc and then filtered. The filtrate was washed with saturated aqueous solutions of NH4Cl and brine, dried over MgSO4, and concentrated under reduced pressure. Chromatography on silica gel (EtOAc:hexane=1:3 to 1:1) gave 1.81 g of 3-[4-(3-cyclopentyloxy-4-methoxy-phenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile. Yield: 90%.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-pyrrolidin-2-one | 5 mmol, 1.5 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NC1)=O | C16H21NO3
reactant | 3-bromobenzonitrile | 7.5 mmol, 1.36 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | potassium phosphate | 9.8 mmol, 1.9 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-trans-cyclohexanediamine | 60 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 100 mg | [Cu]I
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 3-[4-(3-cyclopentyloxy-4-methoxy-phenyl)-2-oxo-pyrrolidin-1-yl]benzonitrile | 1.81 g, Yield: 90% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C23H24N2O3
